US05264577
Step C: Preparation of Ethyl α-amino-9H-thioxanthene-9-acetate, hydrochloride
Ethyl α-nitro-9H-thioxanthene-9-acetate (4.4 g, 13.4 mmol) is hydrogenated in 200 mL of ethanol and 13.5 mL of concentrated hydrochloric acid with 1.0 g of 20% palladium on carbon (51 psi, 28 hours). The filtered solution is stripped of solvent and the residual solid washed with dichloromethane, dried at 45° C./2 mm Hg. This gives 3.66 g of the title compound; mp 238°-240° C. An additional crop (0.41 g) is obtained after cooling the mother liquor; mp 233°-236° C.

reactant | Ethyl α-nitro-9H-thioxanthene-9-acetate | 13.4 mmol, 4.4 g | [N+](=O)([O-])C(C(=O)OCC)C1C2=CC=CC=C2SC=2C=CC=CC12 | C17H15NO4S
reactant | hydrochloric acid | 13.5 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | Ethyl α-amino-9H-thioxanthene-9-acetate, hydrochloride | Cl.NC(C(=O)OCC)C1C2=CC=CC=C2SC=2C=CC=CC12 | InChI=1S/C17H17NO2S.ClH/c1-2-20-17(19)16(18)15-11-7-3-5-9-13(11)21-14-10-6-4-8-12(14)15;/h3-10,15-16H,2,18H2,1H3;1H
